* source AMPLIFIER V2
V_V1         N00940 0 DC 0Vdc AC 1Vac 
Q_Q1         N05752 N08093 N04350 QbreakN 
Q_Q2         N06783 N05468 N05176 QbreakN 
R_Rs         N00940 N10230  50  
C_C1         N10230 N04350  10n  
V_V3         N04818 0 5Vdc
R_RE1         N03641 N04350  4.03k  
R_RC2         N06783 N04818  1k  
R_RC1         N05752 0  3k  
R_RB3         N05468 N04818  10k  
R_RB4         0 N05468  10k  
R_RE2         0 N05176  4.64k  
C_C2         N03641 N04350  100p  
R_RB1         N08098 N08093  100k  
V_V4         0 N08098 5Vdc
V_V5         0 N03641 5Vdc
R_RB2         0 N08093  100k  
C_C3         N05752 N05468  10n  
C_C4         0 N08093  100p  
C_C5         0 N05468  100p  
