* source AMPLIFIER V2
V_V1         N00940 0 DC 0Vdc AC 0.001Vac 
Q_Q1         N05752 N08093 N04350 QbreakN 
Q_Q2         N06783 N05468 N05176 QbreakN 
R_Rs         N00940 N10230  57  
C_C1         N10230 N04350  1u  
V_V3         N04818 0 5Vdc
R_RE1         N03641 N04350  4.15k  
R_RC2         N06783 N04818  1k  
R_RC1         N05752 N08500  18.9k  
R_RB3         N05468 N04818  340k  
R_RB4         0 N05468  550k  
R_RE2         0 N05176  4k  
C_C2         N03641 N04350  10n  
R_RB1         N08098 N08093  100k  
V_V4         0 N08098 5Vdc
V_V5         0 N03641 5Vdc
R_RB2         0 N08093  100k  
C_C3         N05752 N05468  1u  
C_C4         0 N08093  10n  
V_V6         N08500 0 5Vdc
